US07041668B2
11.3 mg of N-(tert-butoxycarbonyl)glycine, 25 mg HBTU and 12 μl diisopropylethylamine were taken up in 0.4 ml dimethylformamide. Reaction mixture was stirred at room temperature for one hour and 5-(4-cyclopentylaminophenylsulfonyloxy)-1H-benzimidazole-2-ylamine was added in 0.2 ml dimethylformamide. Reaction mixture was then stirred at room temperature for 24 hours. Solvent was evaporated in a Jouan model RC 10.10 centrifuge evaporator and title compound was solubilised in 0.5 ml dimethylsulfoxide for LCMS trigged purification yielding 2.4 mg of N-[5-(4-cyclopentylaminophenylsulfonyloxy)-1H-benzimidazole-2-yl]-tert-butoxycarbonylglycineamid. (LC/MS analysis: retention time=3.87 min., mass spectrum: 530.38, [M+H]+).

reactant | N-(tert-butoxycarbonyl)glycine | 11.3 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HBTU | 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 12 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(4-cyclopentylaminophenylsulfonyloxy)-1H-benzimidazole-2-ylamine | C1(CCCC1)NC1=CC=C(C=C1)S(=O)(=O)OC1=CC2=C(NC(=N2)N)C=C1 | C18H20N4O3S
solvent | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | N-[5-(4-cyclopentylaminophenylsulfonyloxy)-1H-benzimidazole-2-yl]-tert-butoxycarbonylglycineamid | 2.4 mg | C1(CCCC1)NC1=CC=C(C=C1)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(CNC(=O)OC(C)(C)C)=O)C=C1 | C25H31N5O6S
